US07968570B2
A mixture of 6-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-one (0.100 g, 0.22 mmol), PdCl2(dppf)2 (0.008 g, 0.011 mmol), zinc cyanide (0.051 g, 0.44 mmol), and zinc (0.007 g, 0.011 mmol) in DMF (5 mL) was stirred at 80° C. for 18 h. Workup and silica gel column chromatography using 2:1 hexanes-ethyl acetate afforded 5-fluoro-3-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-4-carbonitrile (0.015 g, 19%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.31 (s, 2H), 4.81 (s, 2H), 7.19 (d, 2H), 7.37 (m, 3H), 7.64 (m, 1H). GC-MS: m/z 350 (M)+.

reactant | 6-fluoro-7-iodo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-one | 0.22 mmol, 0.100 g | FC1=CC=C2CN(C(C2=C1I)=O)CC1=CC=C(C=C1)OC(F)(F)F | C16H10F4INO2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf)2 | 0.011 mmol, 0.008 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | zinc cyanide | 0.44 mmol, 0.051 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.011 mmol, 0.007 g | [Zn] | Zn
product | 5-fluoro-3-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-4-carbonitrile | 0.015 g, 19% | FC1=C(C=2C(N(CC2C=C1)CC1=CC=C(C=C1)OC(F)(F)F)=O)C#N | C17H10F4N2O2
